Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ y/o man with a PMH of dementia, CAD 
(prior NSTEMI, type II), HTN, IDDM, hypothyroidism, BPH, recent 
admission to ___ for complicated UTI in ___ and admission 
to ___ in ___ for TURP and cystoscopy, who presents 
as a transfer from ___ with septic shock, respiratory 
failure, and ventricular tachyarrhythmia. 
 
Following his discharge from ___, he had his Foley 
catheter removed on ___, and had been continued on 
ciprofloxacin. He then developed abdominal pain and urinary 
retention, and was A&Ox1, which is his baseline due to his 
dementia. By the time he arrived to the ED, he was obtunded and 
unable to provide further history. His initial vital signs were 
HR 135, BP 67/44 mmHg, and RR 27. On his examination, he was 
obtunded, tachypneic, with dry mucous membranes, clear lungs, 
tachycardic exam, regular, non-tender abdomen, and would groan 
to sternal rub. 

Labs were significant for:
CBC:
     7.9
1.7 >----< 216
     25.4
DIFF: 80% NEUT, 6% BAND, 2% META, 10% LYMPH, 2% MONO

ABG: 7.11/51/480/16.2 (on CMV 400/18/1.0/5)

CHEMISTRIES:

140 / 106 / 19
----------------< 153
3.0 / 24 / 0.81

Ca++: 8.7 Mg 1.6 Phos 2.1

CK-MB: 2.4
Trop-T: 0.03
proBNP: 961

Lipase: 41
TSH: 4.11

UA: turbid, neg glucose bili, ketones, 500 ___, negative nitrite, 
___ RBCs, >100 WBCs

Lactate: 4.2 <- 7.1

Urine and blood cultures were collected. He was volume 
resuscitated with a total of 4L NS, initiated on norepinephrine, 
pre-oxygenated, and intubated. He received 40 mcg of epinephrine 
pushes prior to intubation. Shortly after intubation, he had 
multiple runs of polymorphic VT and VFib, and underwent external 
defibrillation x8 times. He never received chest compressions, 
and was never in ventricular arrhythmia for ___ seconds prior 
to cardioversion. He was loaded with 300 mg amiodarone and 
initiated on drip, and he was started on vancomycin/cefepime. 
  
On arrival to the MICU, he was intubated and sedated, and unable 
to provide further history. According to his family, for the 
past several days he has not been eating and drinking well, and 
has been complaining of abdominal pain. 

 
Past Medical History:
- HTN
- HLD
- T2DM (on insulin)
- dementia
- BPH with chronic Foley catheter (removed after recent TURP) 
- CAD (history of NSTEMI, type II)
- depression
- hypothyroidism
 
Social History:
___
Family History:
- unable to obtain, intubated
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: T 98.2F BP 112/54 mmHg P 94 RR 26 O2 96% on CMV ___
General: Intubated and sedated.
HEENT: Anicteric sclerae; PERRL. 
Neck: Supple.
CV: RRR, no MRGs; normal S1/S2. 
Pulm: CTA b/l on anterior examination.
Abd: Soft, non-distended. 
Ext: Cool; no edema. 1+ DP pulses.
Skin: Pressure ulcers on heels and sacrum present. 
Neuro: Sedated, no response to sternal rub or nail bed pressure. 


DISCHARGE PHYSICAL EXAM
========================

 
Pertinent Results:
ADMISSION LABS
==============
___ 02:41PM BLOOD WBC-8.3 RBC-2.82*# Hgb-7.5*# Hct-24.6*# 
MCV-87 MCH-26.6 MCHC-30.5* RDW-15.5 RDWSD-49.2* Plt ___
___ 02:41PM BLOOD Neuts-77* Bands-18* Lymphs-4* Monos-0 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-7.89* 
AbsLymp-0.33* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 02:41PM BLOOD ___ PTT-33.6 ___
___ 02:41PM BLOOD Ret Aut-2.4* Abs Ret-0.07
___ 02:41PM BLOOD ___ 02:41PM BLOOD Glucose-112* UreaN-24* Creat-0.8 Na-141 
K-3.0* Cl-108 HCO3-14* AnGap-19*
___ 02:41PM BLOOD ALT-24 AST-36 LD(LDH)-240 CK(CPK)-221 
AlkPhos-140* TotBili-1.1
___ 02:41PM BLOOD CK-MB-9 cTropnT-0.17* proBNP-1795*
___ 02:41PM BLOOD TotProt-4.5* Albumin-2.3* Globuln-2.2 
Calcium-7.0* Phos-1.5* Mg-2.0
___ 02:48PM BLOOD ___ pO2-47* pCO2-35 pH-7.28* 
calTCO2-17* Base XS--9
___ 02:48PM BLOOD Glucose-120* Lactate-2.7* Na-135 K-2.6* 
Cl-118*

INTERIM LABS
=============

DISCHARGE LABS
===============

IMAGING/STUDIES
================
CHEST (PORTABLE AP) (___):
IMPRESSION:  
Compared to the earlier same day examination, there has been 
placement of an upper enteric tube reaching at least the 
proximal stomach, with tip outside of field-of-view.  
Endotracheal tube and right IJ central venous catheter are 
unchanged, satisfactory.  No other significant changes seen.  
Cardiomediastinal silhouette is unchanged.  Lungs are grossly 
clear.  There is no large effusion or pneumothorax. 

RENAL U.S (___):
FINDINGS:  
The right kidney measures 10.1 cm. The left kidney measures 10.7 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical 
echogenicity and corticomedullary differentiation are seen 
bilaterally. 
  
The bladder is collapsed around a Foley catheter. 
  
IMPRESSION:    
Unremarkable renal ultrasound.  No hydronephrosis. 

MICROBIOLOGY
=============

 
Brief Hospital Course:
Mr. ___ is an ___ y/o man with a PMH of dementia, CAD 
(prior NSTEMI, type II), HTN, IDDM, hypothyroidism, BPH, recent 
admission to ___ for complicated UTI in ___ and admission 
to ___ in ___ for TURP and cystoscopy, who presents 
as a transfer from ___ with septic shock, respiratory 
failure, and ventricular tachyarrhythmia. 

# SEPTIC SHOCK
# COMPLICATED UTI. History of pan-sensitive Proteus and 
Enterobacter infections. History of Pseudomonas at ___. 
Given risk of Pseudomonas with history of insulin-dependent 
diabetes as well as current ___ plan to broadly cover 
with cefepime/vancomycin for now and follow blood/urine 
cultures. No evidence of pneumonia on CXR. Leukopenia consistent 
with severe sepsis. s/p 5L IV fluid resuscitation. Abdominal 
pain on presentation may have suggested an alternative 
intra-abdominal etiology such as enteritis or diverticulitis, 
although there is no history of bloody diarrhea to suggest this. 
If he fails to improve with antibiotics, would consider further 
imaging of abdomen/pelvis and adding on anaerobic coverage. The 
patient was continued on three pressor shock and his lactatic 
acid and acidosis was worse leading to worsening of blood 
pressures. Talking to the family regarding code status directed 
us to a DNR/DNI state. Also the family did not want to escalate 
care. There no additional pressors were added. The patient's 
blood pressure continuously dropped and suffered from a cardiac 
arrest and passed away on 4:10 AM. 

# RESPIRATORY FAILURE
# TOXIC, METABOLIC ENCEPHALOPATHY
# DEMENTIA
Respiratory failure secondary to obtundation and inability to 
protect airway. CXR without evidence of pneumonia or pulmonary 
edema. His encephalopathy may be secondary to sepsis on poor 
baseline mental substrate, however the most worrisome possible 
etiology would be intracranial hemorrhage given his history of 
falls. For now, will attempt to minimize sedation and obtain 
reliable exam and, if unable to do so, proceed with NCHCT. The 
patient was kept on minimal sedation. 

# POLYMORPHIC VENTRICULAR TACHYCARDIA
# VENTRICULAR FIBRILLATION.
# ELEVATED TROPONIN. 
# CAD
s/p amiodarone 300 mg IV bolus, now on amiodarone IV load. 
Received external shocks x8 at ___ for polymorphic 
VT/VF. Suspect etiology may have been epinephrine boluses in the 
setting of septic shock, particularly given minimally elevated 
troponin (does have history of CAD and demand NSTEMI). Will 
evaluate for structural heart disease, monitor for signs of 
ischemia. No further tachyarrthymias here. Suspect elevated 
troponin secondary to cardiac trauma from defibrillation. The 
patient was given amio bolus and kept on a drip.

# ANION GAP METABOLIC ACIDOSIS. Unclear etiology; lactate 2.5, 
no ketones in urine; unlikely to represent co-ingestion. 
Differential also includes renal tubular acidosis, though 
relatively less likely. Will continue to monitor, fluid 
resuscitate, and correct academia. Acidosis deteriorate as his 
lactate worsened. His acidosis was not corrected with NaHCO3. 
The patient passed away due to worsening. 

CHRONIC ISSUES
# IDDM. Dose reduce home glargine + HISS and MIVF w/ dextrose.
# HTN. Hold home lisinopril.
# DEPRESSION. Continue home sertraline.
# HYPOTHYROIDISM. Continue home levothyroxine.
# BPH. Continue home tamsulosin. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Sertraline 50 mg PO DAILY 
8. Tamsulosin 0.8 mg PO QHS 
9. Vitamin D 1000 UNIT PO DAILY 
10. LOPERamide 2 mg PO Q4H:PRN diarrhea 
11. Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
12. melatonin 5 mg oral QHS:PRN 
13. Milk of Magnesia 30 mL PO Q4H:PRN constipation 
14. Bisacodyl 10 mg PR QHS:PRN constipation 
15. Ciprofloxacin HCl 250 mg PO Q12H 

 
Discharge Medications:
patient passed away
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
passed away
 
Discharge Condition:
passed away
 
Discharge Instructions:
passed away
 
Followup Instructions:
___